US05166204
150 mg of N-phenyl-1-formyl-6-methoxy-9-methoxymethylcarbazole-3,4-dicarboximide and 220 mg of methyltriphenylphosphonium iodide were dissolved in N,N-dimethylformamide. Thereto was added 20 mg of 60% sodium hydride with stirring under ice cooling. The resulting mixture was stirred at the same temperature for 30 minutes. To the reaction mixture were added 100 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with 50 ml of water and an aqueous saturated sodium chloride solution in this order and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: benzene/ethyl acetate=50/1 to 20/1) to obtain 130 mg (yield: 87%) of N-phenyl-6-methoxy-9-methoxymethyl-1-vinylcarbazole-3,4-dicarboximide.

reactant | N-phenyl-1-formyl-6-methoxy-9-methoxymethylcarbazole-3,4-dicarboximide | 150 mg | C1(=CC=CC=C1)N1C(=O)C=2C=C(C=3N(C4=CC=C(C=C4C3C2C1=O)OC)COC)C=O | C24H18N2O5
reactant | methyltriphenylphosphonium iodide | 220 mg | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | N-phenyl-6-methoxy-9-methoxymethyl-1-vinylcarbazole-3,4-dicarboximide | 130 mg, yield: 87% | C1(=CC=CC=C1)N1C(=O)C=2C=C(C=3N(C4=CC=C(C=C4C3C2C1=O)OC)COC)C=C | C25H20N2O4
